US04968699
10-[2-(5-Dimethylamino-1-oxopentyl)aminoethyl]-6-oxo-6,7,8,9-tetrahydropyrido[1,2-a]indole (E3)
15 g 6-Oxo-10-[2-(5-chlorovaleryl)aminoethyl]-6,7,8,9tetrahydropyrido[1,2-a]indole (D 3 of EP-0213696), 14.6 ml diisopropylethylamine, 1 g KI and 3.5 g dimethylamine hydrochloride were dissolved in 100 ml DMF and stirred for 48 hours at room-temperature. After further stirring for 7 hours at 40° C. the reaction mixture was dissolved with water and extracted with ethyl acetate. After acid-base separation the product was crystallised from diisopropylether.

reactant | 6-Oxo-10-[2-(5-chlorovaleryl)aminoethyl]-6,7,8,9tetrahydropyrido[1,2-a]indole | 15 g | O=C1CCCC=2N1C1=CC=CC=C1C2CCNC(CCCCCl)=O | C19H23ClN2O2
reactant | diisopropylethylamine | 14.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine hydrochloride | 3.5 g | Cl.CNC
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 10-[2-(5-Dimethylamino-1-oxopentyl)aminoethyl]-6-oxo-6,7,8,9-tetrahydropyrido[1,2-a]indole | CN(CCCCC(=O)NCCC1=C2N(C3=CC=CC=C13)C(CCC2)=O)C | C21H29N3O2
